* Experiment-local parameterized QB template.
* Topology and default values mirror circuits/qb/bq_parameterized_v1.cir.

.subckt BQ IN OUT

Lin IN 1 1.2p

L1 2 3 1.4p
L2 3 4 2.0p

BJS 1 2 jjmit area=4.0

BJ1 2 0 jjmit area=0.9
RJ1 2 0 32

BJ2 4 0 jjmit area=2.0
RJ2 4 0 12

L3 4 OUT 1.3p

IB 0 3 pwl(0 0 1p 260u)

.model jjmit jj(
+ rtype=1
+ vg=2.8mV
+ cap=0.07pF
+ r0=160
+ rN=16
+ icrit=0.1mA
+ )

.ends BQ
